US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-adamantan-1-ylmethyl ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and adamantan-1-ylmethanol according to the procedure of Example 1 as a white solid (HCl salt); 1H NMR (CDCl3) δ 1.25 (m, 2H), 1.35 (d, 3H), 1.51 (s, 12H), 1.55-1.61 (m, 2H), 1.61-1.67 (m, 4H), 1.67-1.75 (m, 6H), 1.97 (s, 4H), 3.20 (s, 2H), 3.42-3.49 (m, 2H), 3.88 (s, 4H), 4-11-4.16 (q, 1H), 5.45 (bd, 1H), 5.65 (bd, 1H), 6.75 (m, 1H), 6.78-6.89 (m, 2H), 7.23-7.30 (m, 3H), 7.44 (s, 1H), 8.74 (bs, 1H), 10.115 (bs, 1H); IR (KBr) 3418 cm-1 (--OH), 1767 cm-1 (C=O); MS (ES) m/z 718.4 (MH+); [α]D25 -15° (c, 1.0, CHCl3). Anal. Calcd. for C42H52ClNO7 : C, 68.94; H, 9.22; N, 1.90; Cl, 9.40. Found: C, 67.48; H, 7.49; N, 1.48; Cl, 8.10.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | adamantan-1-ylmethanol | C12(CC3CC(CC(C1)C3)C2)CO | C11H18O
reactant | HCl | Cl | ClH
reactant | KBr | [K+].[Br-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-adamantan-1-ylmethyl ester | C12(CC3CC(CC(C1)C3)C2)COC(=O)C2(OC3=C(O2)C=CC(=C3)C[C@@H](C)NC[C@H](O)C3=CC(=CC=C3)Cl)C(=O)OCC32CC1CC(CC(C3)C1)C2 | C42H52ClNO7
